US07615558B2
5-Amino-1-(2,6-dimethylphenyl)-1H-pyrazole-4-carbonitrile
3.0 g (17.3 mmol) of 2,6-dimethylphenylhydrazine hydrochloride are suspended with 2.1 g (17.3 mmol) of ethoxymethylenemalononitrile in 40 ml of ethanol, and 7.3 ml (52.1 mmol) of triethylamine are added. The reaction mixture is heated to reflux for 3 h, during which a clear solution forms. After cooling to room temperature, diethyl ether is added to this. The triethyl-ammonium chloride which precipitates is filtered off. The solvent is removed in vacuo, and the residue is purified by preparative HPLC (YMC gel ODS-AQ S 5/15 μm; eluent A: water, eluent B: acetonitrile; gradient: 0 min 30% B, 5 min 30% B, 50 min 95% B). 2.3 g (62% of theory) of the product are obtained as yellow crystals.

reactant | 2,6-dimethylphenylhydrazine hydrochloride | 17.3 mmol, 3.0 g | Cl.CC1=C(C(=CC=C1)C)NN
reactant | ethoxymethylenemalononitrile | 17.3 mmol, 2.1 g | C(C)OC=C(C#N)C#N | C6H6N2O
reactant | triethylamine | 52.1 mmol, 7.3 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 5-Amino-1-(2,6-dimethylphenyl)-1H-pyrazole-4-carbonitrile | NC1=C(C=NN1C1=C(C=CC=C1C)C)C#N | C12H12N4
